datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].C[N+:21](C)=[CH2:20]>>C[N:21](C)[CH2:20][CH2:10][CH:11]=[N+:12]1[C:63]2=[C:64](C=CC=C2)[C:74]2=[C:73]1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>FC(F)(F)[S:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)[C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N:12]1/[CH:11]=[CH:10]/C1=CC=CC=C1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[N+:12]1=[CH:11][CH:10](C1=CC=CC=C1)[CH:20](C1=CC=CC=C1)[CH-:21][S:32](F)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.[N-:10]=[C:61]=[S:62]>>C1=CC=C([C:23]2=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32][C:21]([CH:20]([N:10]=[C:61]=[S:62])[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[CH:22]2)C=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1>>C[C:21]([CH:20]([H:10])[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25].C[Si:63]1(C)CCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CCCC[O:12][CH:11]=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCC[O+:12]=[CH:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.[H:10][CH:11]1[CH:12]=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1>>C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.[CH:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16][CH+:17]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16"
"C1=CC=C([C:11]2=[N:10]CC[NH:12]2)C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2CC[NH+:12]=[C:11]2C2=CC=CC=C2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:61]1=[N:10][CH:71]=[CH:72][NH:62]1>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1=[C:61](C)[NH:62][CH:72]=[CH:71]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CCC[C:20](C)=[O:21].Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>CCC[C:20](C)([N+:10]1=[CH:61][CH:62]=[C:63](Cl)[CH:72]=[CH:71]1)[O-:21] 10=20;20,21=21"
"CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([S:20]C(F)(F)F)[CH:61]=[C:62]3N(C)CC2.C[N-:21]C1=CC=CC=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=CC=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[N:12]1CC[N:62](C)[C:11]1=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11]2=[N+:12](C)CC[N:62]2C)[C:21](C[N+]2=CC=CC=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[CH:63]=[CH:62][CH:11]=[CH:10]C1.Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([CH:10]2CCCC[CH:63]=[CH:62][CH+:11]2)([O-:21])[C:41](Cl)=[C:42]1Cl 10,11=10,20;20,21=21"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O-:10])=[O:62])=C1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([O:10][C:61](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=[O:62])[N-:21]1 10=20;20,21=21"
"C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[C:61]1=[N+:10]([F:20])[CH:64]=[C:63](C)[NH:62]1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20"
